* asymmetry table row: .save of a name no card defines
Vs In 0 DC 3
Rl In MidNode 1k
Rg MidNode 0 3k
.dc Vs 1 3 1
.save v(nosuchnode)
.control
run
.endc
.end
